US06407120B1
N-(4-Diethylsulfamoyl-phenyl)-2,2-diphenyl-acetamide
A solution of diphenylacetic acid (223 mg, 1.05 mmol), 4-Amino-N,N-diethyl-benzenesulfonamide (240 mg, 1.05 mmol), HOBT (213 mg, 1.58 mmol), and EDC (242 mg, 1.26 mmol) in dichloromethane (20 mL) was stirred at 23° C. for 15 hours. The reaction mixture was washed with 1N aqueous sodium hydroxide (10 mL), 1N aqueous hydrochloric acid (10 mL), and saturated aqueous sodium chloride (10 mL). The organics were dried over magnesium sulfate and were concentrated. Flash chromatography (20% THF in hexanes grading to 40% THF in hexanes) provided the title compound as orange oil that solidified upon standing (224 mg). MS 423 (M+1)

reactant | diphenylacetic acid | 1.05 mmol, 223 mg | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | 4-Amino-N,N-diethyl-benzenesulfonamide | 1.05 mmol, 240 mg | NC1=CC=C(C=C1)S(=O)(=O)N(CC)CC | C10H16N2O2S
reactant | HOBT | 1.58 mmol, 213 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.26 mmol, 242 mg
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(4-Diethylsulfamoyl-phenyl)-2,2-diphenyl-acetamide | C(C)N(S(=O)(=O)C1=CC=C(C=C1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC | C24H26N2O3S
